US07960377B2
To a solution of methyl 1-(phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate (270 mg, 0.808 mmol) in THF (10 mL)/MeOH (10 mL)/water (10 mL) was added lithium hydroxide (38.7 mg, 1.615 mmol). The reaction was stirred at room temperature for 16 hours. LCMS analysis of the reaction mixture identified the molecular ion corresponding to product. The reaction mixture was concentrated in vacuo to remove the organic solvents. The aqueous layer was acidified with 1N aqueous HCl (10 mL), which resulted in a white precipitate formation. The aqueous layer was extracted with EtOAc (2×30 mL). The combined organics were dried over anhydrous Na2SO4 and concentrated in vacuo to provide 1-(phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylic acid (230 mg, 0.718 mmol, 89% yield) as an off-white solid that was used without further purification. LCMS (+ESI) m/z=321.0 [M+H]+.

reactant | methyl 1-(phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | 0.808 mmol, 270 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C(=O)OC | C15H14N2O5S
reactant | MeOH | 10 mL | CO | CH4O
reactant | water | 10 mL | O | H2O
reactant | lithium hydroxide | 1.615 mmol, 38.7 mg | [OH-].[Li+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylic acid | 0.718 mmol, 230 mg, 89% yield | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C(=O)O | C14H12N2O5S
